US09416132B2
88. trans-4-(((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)methyl)cyclohexanecarbonitrile (EX. 8-88)
A mixture of 6-chloro-3-(3-chlorophenyl)imidazo[1,2-b]pyridazine (50 mg, 0.189 mmol), -4-(aminomethyl)cyclohexanecarbonitrile (111 mg, 0.25 mmol) and KF (47 mg, 0.82 mmol) in DMSO (0.5 mL) was heated at 130° C. overnight. LCMS showed the reaction was almost complete. The mixture was purified by prep. HPLC to give EX. 8-88 (26 mg, 38%) as an off-white solid.

reactant | 6-chloro-3-(3-chlorophenyl)imidazo[1,2-b]pyridazine | 0.189 mmol, 50 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)Cl | C12H7Cl2N3
reactant | 4-(aminomethyl)cyclohexanecarbonitrile | 0.25 mmol, 111 mg | NCC1CCC(CC1)C#N | C8H14N2
reactant | KF | 0.82 mmol, 47 mg | [F-].[K+]
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | trans-4-(((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)methyl)cyclohexanecarbonitrile | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)NC[C@@H]2CC[C@H](CC2)C#N | C20H20ClN5
